US05773449
4-Hydroxy-1,7-phenanthroline
Preparation 3: Preparation of 4-hydroxy-7-phenethylquinoline trans-4-Hydroxy-7-styrylquinoline (280 mg, 1.13 mmol) obtained in the Preparation 2 was dissolved in ethanol (200 ml), hydrogenated in the presence of 10% palladium on activated carbon (100 mg) and purified through silica gel column chromatography (Wako Gel™ C-200, methylene chloride : methanol=9 : 1) to obtain the titled compound (220mg, 78%).

reactant | 4-hydroxy-7-phenethylquinoline trans-4-Hydroxy-7-styrylquinoline | 1.13 mmol, 280 mg | OC1=CC=NC2=CC(=CC=C12)\C=C\C1=CC=CC=C1.OC1=CC=NC2=CC(=CC=C12)CCC1=CC=CC=C1
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
product | 4-Hydroxy-1,7-phenanthroline | 220mg, 78% | OC1=CC=NC2=C3C=CC=NC3=CC=C12 | C12H8N2O
